US08044083B2
Step H: Preparation of 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(2-(1-(2,2-dimethoxyethyl)-1H-indazol-5-yloxy)-5-fluorobenzyl)urea 70:
(2-(1-(2,2-dimethoxyethyl)-1H-indazol-5-yloxy)-5-fluorophenyl)methanamine (2.00 g, 5.791 mmol), 2,2,2-trichloroethyl 3-tert-butyl-1-p-tolyl-1H-pyrazol-5-ylcarbamate (3.516 g, 8.686 mmol) and N,N-diisopropylethylamine (3.026 mL, 17.37 mmol) were suspended in N,N-dimethylacetamide (50 mL) and heated at 80° C. overnight. The reaction mixture was concentrated under reduced pressure and the residue diluted with EtOAc and saturated aqueous NH4Cl. The organics were washed with water (3×), brine, dried (MgSO4) and then concentrated under reduced pressure to afford the crude material, which was purified by flash column chromatography (eluant 35-45% EtOAc/Hexanes). After evaporation of the solvent, the desired product was obtained as a pale yellow foam (2.57 g, 74%). MS (APCI+) m/z 602 (M+1) was detected. 1H NMR (400 MHz, DMSO-d6) δ 7.88 (s, 1H), 7.43 (d, 1H, J=9 Hz), 6.72-7.30 (m, 9H), 6.18 (s, 1H), 6.01 (br, 1H), 5.47 (t, 1H, J=6.1 Hz), 4.76 (t, 1H, J=5.3 Hz), 4.44 (t, 4H, J=5.6 Hz), 3.38 (s, 6H), 2.37 (s, 3H), 1.30 (s, 9H).

reactant | (2-(1-(2,2-dimethoxyethyl)-1H-indazol-5-yloxy)-5-fluorophenyl)methanamine | 5.791 mmol, 2.00 g | COC(CN1N=CC2=CC(=CC=C12)OC1=C(C=C(C=C1)F)CN)OC | C18H20FN3O3
reactant | 2,2,2-trichloroethyl 3-tert-butyl-1-p-tolyl-1H-pyrazol-5-ylcarbamate | 8.686 mmol, 3.516 g | C(C)(C)(C)C1=NN(C(=C1)NC(OCC(Cl)(Cl)Cl)=O)C1=CC=C(C=C1)C | C17H20Cl3N3O2
reactant | N,N-diisopropylethylamine | 17.37 mmol, 3.026 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylacetamide | 50 mL | CN(C(C)=O)C | C4H9NO
product | 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(2-(1-(2,2-dimethoxyethyl)-1H-indazol-5-yloxy)-5-fluorobenzyl)urea | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CC(OC)OC)C1=CC=C(C=C1)C | C33H37FN6O4
